US08304419B2
Step D: 4-chloro-2-cyclopropyl-1H-imidazole-5-carboxylic acid
A solution of sodium chlorite (1.5 g, 16.6 mmol) and sodium dihydrogen phosphate monohydrate (1.3 g, 9.4 mmol) in water (3.7 mL) was added to a stirred solution of 4-chloro-2-cyclopropyl-1H-imidazole-5-carbaldehyde (0.282 g, 1.6 mmol), 2-methyl-2-butene (10 mL of a 2M solution in THF, 20.0 mmol), and tert-butanol (1.2 mL) in THF (5.0 mL). The reaction mixture was stirred at RT for 6 h. The aqueous phase was separated and extracted with EtOAc (4×10 mL). The combined extracts were dried (Na2SO4), filtered, concentrated and the residue was triturated with diethyl ether to provide the title compound (0.285 g, 95%) as light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.95 (br. s., 1H), 1.90-2.00 (m, 1H), 0.89-0.98 (m, 2H), 0.82-0.89 (m, 2H). ES-LCMS: m/z 187.0 (M+1).

reactant | sodium chlorite | 16.6 mmol, 1.5 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate monohydrate | 9.4 mmol, 1.3 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | 4-chloro-2-cyclopropyl-1H-imidazole-5-carbaldehyde | 1.6 mmol, 0.282 g | ClC=1N=C(NC1C=O)C1CC1 | C7H7ClN2O
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | water | 3.7 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | tert-butanol | 1.2 mL | C(C)(C)(C)O | C4H10O
product | 4-chloro-2-cyclopropyl-1H-imidazole-5-carboxylic acid | 0.285 g, 95% | ClC=1N=C(NC1C(=O)O)C1CC1 | C7H7ClN2O2
